US06166015
Neat 3,4-dichlorobenzylamine (18 g, 114 mmol) was added to a solution of dimethyl itaconate (20 g, 114 mmol) in methanol (200 mL) at room temperature. The solution was stirred at for 48 h then concentrated in vacuo. The resulting solid was divided equally into two, one portion being treated with methanolic ammonia (7 M, 300 mL, 2.1 mol). The solution was vented with a needle and allowed to stand for 2 days. The slurry of solvent and product was concentrated further and filtered. The filter cake was washed with cold methanol to give pure 3-aminocarbonyl-1-(3,4-dichlorobenzyl)-pyrrolidin-2-one (18.5 g).

reactant | 3,4-dichlorobenzylamine | 114 mmol, 18 g | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
reactant | dimethyl itaconate | 114 mmol, 20 g | C(C(=C)CC(=O)OC)(=O)OC | C7H10O4
reactant | ammonia | 2.1 mol, 7 M, 300 mL | N | H3N
reactant | methanol | 200 mL | CO | CH4O
product | 3-aminocarbonyl-1-(3,4-dichlorobenzyl)-pyrrolidin-2-one | 18.5 g | NC(=O)C1C(N(CC1)CC1=CC(=C(C=C1)Cl)Cl)=O | C12H12Cl2N2O2
